US20010027196A1
To a stirred suspension of 2,41 g (12.0 mmol) 6-amino-2-furan-2-yl-4-oxo-1,4-dihydro-pyridine-3-carbonitrile in 25 ml dichloromethane at 0° C. were added 5.38 ml (24.0 mmol) 2,6-di-tert-butylpyridine and 2.00 ml (12.0 mmol) triflic anhydride and stirring continued at room temperature for 16 hours. The reaction mixture was then concentrated in vacuo. Chromatography (ethyl acetate/hexane 1/1) followed by trituration in ether/hexane afforded 2.05 g (51%) trifluoromethanesulfonic acid 6-amino-3-cyano-2-furan-2-yl-pyridin-4-yl ester as a white crystalline solid. ES-MS m/e (%): 351 (M+NH4+, 100), 334 (M+H+, 11).

reactant | 6-amino-2-furan-2-yl-4-oxo-1,4-dihydro-pyridine-3-carbonitrile | 12.0 mmol, 2,41 g | NC1=CC(C(=C(N1)C=1OC=CC1)C#N)=O | C10H7N3O2
reactant | 2,6-di-tert-butylpyridine | 24.0 mmol, 5.38 ml | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | triflic anhydride | 12.0 mmol, 2.00 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid 6-amino-3-cyano-2-furan-2-yl-pyridin-4-yl ester | 2.05 g, 51% | NC1=CC(=C(C(=N1)C=1OC=CC1)C#N)OS(=O)(=O)C(F)(F)F | C11H6F3N3O4S
